US04255436
2-oxo-4,5-dimethyl-5-propyl-3-thiazoline-oxime was reacted with methyl isocyanate as described in Example 4 to yield 2-oxo-4,5-dimethyl-5-propyl-3-thiazoline-O-(methylcarbamoyl)-oxime, m.p. 66°-69° C. The 2-oxo-4,5-dimethyl-5-propyl-3-thiazoline-oxime starting material melts at 94°-96° C.

reactant | 2-oxo-4,5-dimethyl-5-propyl-3-thiazoline-oxime | N(O)=C1SC(C(=N1)C)(CCC)C | C8H14N2OS
reactant | methyl isocyanate | CN=C=O | C2H3NO
product | 2-oxo-4,5-dimethyl-5-propyl-3-thiazoline-O-(methylcarbamoyl)-oxime | CNC(=O)ON=C1SC(C(=N1)C)(CCC)C | C10H17N3O2S
